US05348964
2-(1-Piperidyl)ethyl ethyl sulfone
Mix 2-chloroethyl ethyl sulfone (1.2 g, 7.66 mmol) and piperidine (2 mL, 20 mmol). Stir at room temperature for 2 hours. Treat with 5N sodium hydroxide, extract with ethyl acetate (3×50 mL) and dry (MgSO4). Concentrate in vacuo to yield 1.3 g yellow oil which crystallizes. Purify by silica gel chromatography (ethyl acetate) to yield 550 mg (35%) of the title compound as a clear oil which crystallizes; mp 45°-47° C.

reactant | 2-chloroethyl ethyl sulfone | 7.66 mmol, 1.2 g | C(C)S(=O)(=O)CCCl | C4H9ClO2S
reactant | piperidine | 20 mmol, 2 mL | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
product | 2-(1-Piperidyl)ethyl ethyl sulfone | 1.3 g | C(C)S(=O)(=O)CCN1CCCCC1 | C9H19NO2S
